US07825260B2
Phosphoric acid mono-{(R)-2-amino-4-[2-(3-ethoxy-phenyl)-benzooxazol-5-yl]-2-methyl-butyl}ester hydrochloride
A solution of [(R)-3-(3-Amino-4-hydroxy-phenyl)-1-(di-tert-butoxy-phosphoryloxymethyl)-1-methyl-propyl]-carbamic acid tert-butyl ester (157.5 mg, 0.313 mmol) and 3-ethoxy-benzimidic acid ethyl ester hydrochloride in dry methanol (2 mL) was stirred for 20 minutes at 120° C. in a closed vial (microwave reactor). After cooling to RT the precipitate was filtered off, washed 2× with MeOH, 3× with water and 3× with diethyl ether. After drying in vacuum, the precipitate was dissolved in a mixture of diethyl ether/HCl (4 mL, 2M) and methanol (1 mL). After evaporation of the solvents the title compound was obtained as colorless crystals. 1H-NMR (CD3OD): δ=7.76 (d; 1H), 7.71 (s; 1H), 7.61 (bs; 2H), 7.47 (m; 1H), 7.37 (m; 1H), 7.14 (d; 1H), 4.24-4.00 (m; 4H), 2.89 (m; 2H), 2.10 (m; 2H), 1.47 (s; 6H); MS (ESI+): 421.4 [M+H]+

reactant | [(R)-3-(3-Amino-4-hydroxy-phenyl)-1-(di-tert-butoxy-phosphoryloxymethyl)-1-methyl-propyl]-carbamic acid tert-butyl ester | 0.313 mmol, 157.5 mg | C(C)(C)(C)OC(N[C@@](CCC1=CC(=C(C=C1)O)N)(C)COP(=O)(OC(C)(C)C)OC(C)(C)C)=O | C24H43N2O7P
reactant | 3-ethoxy-benzimidic acid ethyl ester hydrochloride | Cl.C(C)OC(C1=CC(=CC=C1)OCC)=N
solvent | methanol | 2 mL | CO | CH4O
product | Phosphoric acid mono-{(R)-2-amino-4-[2-(3-ethoxy-phenyl)-benzooxazol-5-yl]-2-methyl-butyl}ester hydrochloride | Cl.N[C@@](COP(O)(O)=O)(CCC=1C=CC2=C(N=C(O2)C2=CC(=CC=C2)OCC)C1)C | InChI=1S/C20H25N2O6P.ClH/c1-3-26-16-6-4-5-15(12-16)19-22-17-11-14(7-8-18(17)28-19)9-10-20(2,21)13-27-29(23,24)25;/h4-8,11-12H,3,9-10,13,21H2,1-2H3,(H2,23,24,25);1H/t20-;/m1./s1
